2179-09-16 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2179-9-15**] 10:37 PM
   admit overnight. stable, with f/u portable CXR that showed no worsening
   of PTX.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2179-9-16**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-16**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 66 (63 - 76) bpm
   BP: 114/51(67) {99/44(59) - 114/61(71)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    410 mL
   Urine:
                                                                    340 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,790 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   11.1 g/dL
   93 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   99 mEq/L
   133 mEq/L
   30.0 %
   4.8 K/uL
        [image002.jpg]
                             [**2179-9-15**]  10:01 PM
                             [**2179-9-16**]  04:12 AM
                             [**2179-9-16**]  05:56 AM
   WBC
   5.2
   4.8
   Hct
   32.5
   31.3
   30.0
   Plt
   47
   38
   Cr
   1.3
   1.2
   TropT
   <0.01
   <0.01
   Glucose
   94
   93
   Other labs: PT / PTT / INR:20.1/39.2/1.9, CK / CKMB /
   Troponin-T:48//<0.01, ALT / AST:26/52, Alk Phos / T Bili:72/7.2,
   Differential-Neuts:70.4 %, Lymph:14.0 %, Mono:9.5 %, Eos:5.5 %, Lactic
   Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:262 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR:small apical PTX b/l, L pleural effusion unchanged from
   prior.
   Microbiology: Bcx [**9-15**]: pending
   Assessment and Plan
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 PLEURAL EFFUSION, ACUTE
 CIRRHOSIS OF LIVER, OTHER
 THROMBOCYTOPENIA, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Assessment and Plan: This is a 56M with Hep C cirrhosis admitted with
   B/L PTX and new left effusion
   .
   # B/L PTX: Unclear etiology for new onset bilateral PTX given he has
   had no recent pressure changes that would precipitate PTX and no known
   risk factors for secondary PTX such as COPD, CF, TB, ankylosing
   spondylitis, asthma, histiocytosis X, idiopathic pulmonary fibrosis,
   lymphangioleiomyomatosis, lung cancer, Marfan syndrome, necrotizing
   pneumonia, rheumatoid arthritis, or sarcoidosis. Primary spontaneous
   PTX also possibility but he is not of typical stature, or epidemiology.
   He has no previous known underlying lung disease although likely had
   ruputure of subpleural bleb given mild bullous disease on chest CT
   which is out of proportion to smoking history.  He has been on new
   medication which stimulates megakaryocytes for thrombocytopenia but PTX
   or cystic lung disease not obvious side effect.
   - Continue 100% NRB to enhance resorption of PTX
   - Call IP this AM
   - serial exams, repeat PA and lateral CXR
   - monitor for any signs of hemodynamic compromise such as tachycardia,
   hypotension
   - Hold Eltrombopag study medication since unclear if this is underlying
   cause (Dr. [**Last Name (STitle) 1174**]
   .
   # Pleural effusion: Pt has chronic small right effusion likely from
   known liver disease but has new moderate to large left pleural effusion
   which has developed since 6/[**2179**]. unclear if related to new PTX but
   Differential includes hemothorax related to , empyema and parapneumonic
   effusion, transudative effusion. Given no infectious symptoms such as
   fever, chills, leukocytosis will not continue abx started in ED but
   would pursue further workup with thoracentesis for determination of
   transudate vs exudate with cytology, cell counts, cx and gram stain.
   Unlikely new heart failure or related to cirrhosis since assymmetric
   and left>right.
   - Thoracentesis today with cx, gram stain, cytology,
   - serial exams
   - TTE to eval for portopulmonary HTN
   - f/u blood cx
   - FFP ordered, check coags in am, has active type and screen
   # Anemia: drop in Hct from 36 to 30 today, INR 1.9. Unclear etiology,
   possible bleeding vs DIC
   -guaiac stool
   -CT scan show hundsfield units of pleural fluid not consistent with
   blood
   -check DIC labs
   - FFP ordered, follow coags, has active type and screen and 1 unit on
   hold
   # CP: Dyspnea and CP likely secondary to PTX but will also ROMI with
   serial enzymes. No ECG changes to suggest ischemia, cardiac enzymes
   negative x 2 and no PE on CTA
   - ROMI, CE's this AM
   - repeat ECG in am
   - controlled with PRN morphine
   # Cirrhosis: [**3-15**] hep C acquired from blood transfusion. Stable. No
   active issues
   - continue nadolol for history of varices, cipro for SBP ppx,
   lactulose, rifaximin, lasix, and aldactone
   - appreciate liver following while in house (call c/s)
   # Thrombocytopenia: Stable at baseline. Transfused platelets yesterday,
   plt #back to pre-txf level.
   - CBC at noon
   - continue to monitor
   # HTN: Currently well controlled on home meds of lasix and aldactone,
   nadolol
   # R>L LE edema: per patient is at baseline but much more significant on
   exam since previously documented
   - check LE duplex
   ICU Care
   Nutrition:
   Comments: Low Na diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-9-15**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient and wife
   [**Name (NI) 36**] status: Full code
   Disposition:Transfer to floor

2179-09-17 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2179-9-16**] 08:33 AM
 TRANSTHORACIC ECHO - At [**2179-9-16**] 10:34 AM
   IP did not see patient today despite plan with ID and plan with us to
   do so, will see tomorrow morning.
   CXR yesterday showed worsening left lung volume loss which may be
   related to increasing large pleural effusion and small-to-moderate
   pneumothorax.  No DVT.  RUQ U/S: Patent portal vein. CE negative.
   DIC- fibrinogen 156. Continues on NRB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2179-9-17**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-17**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 69 (62 - 75) bpm
   BP: 98/58(68) {94/45(59) - 121/68(81)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    360 mL
   Urine:
                                                                  2,300 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,300 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   43 K/uL
   10.3 g/dL
   124 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   23 mg/dL
   100 mEq/L
   133 mEq/L
   29.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2179-9-15**]  10:01 PM
                             [**2179-9-16**]  04:12 AM
                             [**2179-9-16**]  05:56 AM
                             [**2179-9-16**]  12:19 PM
                             [**2179-9-17**]  03:27 AM
   WBC
   5.2
   4.8
   4.4
   3.8
   Hct
   32.5
   31.3
   30.0
   29.8
   29.7
   Plt
   47
   38
   43
   43
   Cr
   1.3
   1.2
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   94
   93
   124
   Other labs: PT / PTT / INR:19.8/37.7/1.8, CK / CKMB /
   Troponin-T:30//<0.01, ALT / AST:26/49, Alk Phos / T Bili:73/5.3,
   Differential-Neuts:71.0 %, Lymph:14.3 %, Mono:8.2 %, Eos:6.2 %,
   Fibrinogen:157 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:244
   IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR portable: improvement or no change in L PTX and effusion.
   No consolidation.
   Microbiology: Bcx: pending
   Assessment and Plan
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 PLEURAL EFFUSION, ACUTE
 CIRRHOSIS OF LIVER, OTHER
 THROMBOCYTOPENIA, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Assessment and Plan: This is a 56M with Hep C cirrhosis admitted with
   B/L PTX and new left effusion
   .
   # B/L PTX: Unclear etiology for new onset bilateral PTX given he has
   had no recent pressure changes that would precipitate PTX and no known
   risk factors for secondary PTX such as COPD, CF, TB, ankylosing
   spondylitis, asthma, histiocytosis X, idiopathic pulmonary fibrosis,
   lymphangioleiomyomatosis, lung cancer, Marfan syndrome, necrotizing
   pneumonia, rheumatoid arthritis, or sarcoidosis. Primary spontaneous
   PTX also possibility but he is not of typical stature, or epidemiology.
   He has no previous known underlying lung disease although likely had
   ruputure of subpleural bleb given mild bullous disease on chest CT
   which is out of proportion to smoking history.  He has been on new
   medication which stimulates megakaryocytes for thrombocytopenia but PTX
   or cystic lung disease not obvious side effect.
   - Continue 100% NRB to enhance resorption of PTX
   - Call IP this AM
   - serial exams, repeat PA and lateral CXR
   - monitor for any signs of hemodynamic compromise such as tachycardia,
   hypotension
   - Hold Eltrombopag study medication since unclear if this is underlying
   cause (Dr. [**Last Name (STitle) 1174**]
   # Pleural effusion: Pt has chronic small right effusion likely from
   known liver disease but has new moderate to large left pleural effusion
   which has developed since 6/[**2179**]. unclear if related to new PTX but
   Differential includes hemothorax related to , empyema and parapneumonic
   effusion, transudative effusion. Given no infectious symptoms such as
   fever, chills, leukocytosis will not continue abx started in ED but
   would pursue further workup with thoracentesis for determination of
   transudate vs exudate with cytology, cell counts, cx and gram stain.
   Unlikely new heart failure or related to cirrhosis since assymmetric
   and left>right.
   - call IP this AM
   - Thoracentesis today with cx, gram stain, cytology,
   - serial exams
   - TTE to eval for portopulmonary HTN
   - f/u blood cx
   - FFP ordered, check coags in am, has active type and screen
   # Anemia: Hct stable o/n INR 1.8. Unclear etiology, possible bleeding
   vs DIC.  DIC labs WNL.
   -guaiac stool
   -CT scan show hundsfield units of pleural fluid not consistent with
   blood
   - FFP ordered, follow coags, has active type and screen and 1 unit on
   hold
   # CP: Dyspnea and CP likely secondary to PTX. ROMI.
   - repeat ECG in am
   - controlled with PRN morphine
   # Cirrhosis: [**3-15**] hep C acquired from blood transfusion. Stable. No
   active issues
   - continue nadolol for history of varices, cipro for SBP ppx,
   lactulose, rifaximin, lasix, and aldactone
   - appreciate liver following while in house (call c/s)
   # Thrombocytopenia: Stable at baseline. Transfused platelets yesterday,
   plt #back to pre-txf level. Plts stable o/n.
   - continue to monitor w/ daily CBC
   # HTN: Currently well controlled on home meds of lasix and aldactone,
   nadolol
   # R>L LE edema: No DVT
   ICU Care
   Nutrition:
   Comments: Low Na diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-9-15**] 09:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: PT and wife
   [**Name (NI) 36**] status: Full code
   Disposition:Transfer to floor